US06489344B1
Preparation of 2,6-dichloropyridine-3-carbonitrile
To a mixture of 2,6-dichloro-3-acetamidopyridine (6.3 g, 55% pure) and pyridine (4.93 ml, 61 mmole) in dichloromethane (100 ml), trifluoroacetic anhydride (4.23 ml, 30 mmole) was added. The reaction mixture was stirred at room temperature overnight and concentrated under reduced pressure. The crude product was purified by flash chromatography, eluting with 85% hexane: 15% ethyl acetate to give a pale yellow product (1.77 g, 90%).

reactant | 2,6-dichloro-3-acetamidopyridine | 6.3 g | ClC1=NC(=CC=C1NC(C)=O)Cl | C7H6Cl2N2O
reactant | pyridine | 61 mmole, 4.93 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 30 mmole, 4.23 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,6-dichloropyridine-3-carbonitrile | 1.77 g, 90% | ClC1=NC(=CC=C1C#N)Cl | C6H2Cl2N2
